US04046900
By following the manipulative procedures described above in Examples 1(c) and (d), 1-acetylisonipecotoyl chloride, Example 1(b), toluene, and aluminum chloride are reacted to produce 4-(4-toluyl)piperidine hydrochloride. The salt is recrystallized thrice from a methanol-ether mixture (one charcoal treatment) to give colorless needles, mp 275°-277° C., (dec.).

reactant | 1-acetylisonipecotoyl chloride | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4-toluyl)piperidine hydrochloride | Cl.C1(=CC=C(C=C1)C1CCNCC1)C | InChI=1S/C12H17N.ClH/c1-10-2-4-11(5-3-10)12-6-8-13-9-7-12;/h2-5,12-13H,6-9H2,1H3;1H
